US08030302B2
Ethyl 5-((1H-pyrazol-1-yl)methyl)-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
To a solution of ethyl 5-(bromomethyl)-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate (1.3 g, 3.6 mmol) and 1H-pyrazole (0.25 g, 3.6 mmol) in THF (50 mL) and H2O (1 mL) cooled in an ice-water bath is added solid KOH (0.2 g, 3.6 mmol) in three portions. After the reaction mixture is stirred at RT overnight, the solvent is removed. The residue is purified by silica gel column chromatography eluting with PE:EtOAc (4:1) to give the product (0.87 g, 70% yield). MS (m/z): 345.1 (M+H).

reactant | ethyl 5-(bromomethyl)-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 3.6 mmol, 1.3 g | BrCC1=C(C(N(N1C)C1=CC=C(C=C1)F)=O)C(=O)OCC | C14H14BrFN2O3
reactant | 1H-pyrazole | 3.6 mmol, 0.25 g | N1N=CC=C1 | C3H4N2
reactant | KOH | 3.6 mmol, 0.2 g | [OH-].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | H2O | 1 mL | O | H2O
product | Ethyl 5-((1H-pyrazol-1-yl)methyl)-2-(4-fluorophenyl)-1-methyl-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 0.87 g, 70% yield | N1(N=CC=C1)CC1=C(C(N(N1C)C1=CC=C(C=C1)F)=O)C(=O)OCC | C17H17FN4O3
